US04622418
N-Boc-O-(2,2,5,5-tetramethyl-1-cyclopentyl)-1-amino-1-hydroxymethylcyclopropane is dissolved in trifluoroacetic acid and stirred overnight. The solution is poured into water and neutralized with 20% aqueous KOH. The mixture is extracted with ethyl acetate, dried over MgSO4, filtered and evaporated to give O-(2,2,5,5-tetramethyl-1-cyclopentyl)-1-amino-1-hydroxymethylcyclopropane.

reactant | N-Boc-O-(2,2,5,5-tetramethyl-1-cyclopentyl)-1-amino-1-hydroxymethylcyclopropane | C(=O)(OC(C)(C)C)NC1(CC1)COC1C(CCC1(C)C)(C)C | C18H33NO3
reactant | water | O | H2O
reactant | KOH | [OH-].[K+]
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | O-(2,2,5,5-tetramethyl-1-cyclopentyl)-1-amino-1-hydroxymethylcyclopropane | CC1(C(C(CC1)(C)C)OCC1(CC1)N)C | C13H25NO
